US05133965
Sustained Release of Tobramycin SDMC From Foam Wound Dressing
To a solution of 75 ml of dichloromethane was added 10 grams of soy lecithin and 200 mg of tobramycin sulfate in 5 ml of water. The solution was mixed by shaking and 4 ml were applied onto each side of the 1"×1" foam bandage material and allowed to air dry. Four ml of a solution comprising 20 mg of tobramycin sulfate in 8 ml of water was applied onto each side of 10 additional foam bandage material pieces (1"×1") and allowed to air dry. The foam bandage pieces were placed onto a grid support, wetted with 5 ml of water and 2 ml of eluent was collected which flowed through the foam dressing and into the underlying receptacle. The foam dressings were wetted subsequent times and 2 ml of eluent was collected. The antimicrobial activity of eluent was determined using standard antimicrobial inhibition assays using E. coli strain Y-1089. The results as shown in Table II.

reactant | dichloromethane | 75 ml | ClCCl | CH2Cl2
reactant | tobramycin sulfate | 200 mg | C1[C@@H]([C@H]([C@@H]([C@H]([C@@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)N)O)O)O[C@@H]3[C@@H](C[C@@H]([C@H](O3)CN)O)N)N.OS(=O)(=O)O
solvent | water | 5 ml | O | H2O
product | Tobramycin | C1[C@@H]([C@H]([C@@H]([C@H]([C@@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)N)O)O)O[C@@H]3[C@@H](C[C@@H]([C@H](O3)CN)O)N)N | C18H37N5O9
